US06359143B1
Preparation of 5-acetonyl-3-methylisoxazole
Into a 2 L flask filled with nitrogen were placed 1000 ml of anhydrous THF and 500 ml of a 1.6M n-hexane solution of n-butyl lithium. The flask was placed in a dry ice-acetone bath to set the inside temperature to −70° C., and 68.0 g of 3,5-dimethylisoxazole was slowly dropped in the flask. After the resulting solution was stirred for 30 minutes at the same temperature, a solution of 120.0 g of dimethylacetamide in 300 ml of THF was slowly dropped. After the completion of the dropping, the solution was further stirred for an hour at −60° C. to −65° C. The reaction solution was poured into 1 L of ice water acidified with hydrochloric acid. The organic layer was separated. The aqueous layer was further extracted with ethyl acetate. The obtained organic layers were combined and concentrated under reduced pressure. The obtained concentrate was dissolved in 500 ml of ethyl acetate, washed with water and then with saturated salt water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by distillation under reduced pressure to give 68.5 g of the title compound as a colorless liquid. Boiling point: 85° C./1.0 mmHg.

reactant | n-hexane | 1.6M | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3,5-dimethylisoxazole | 68.0 g | CC1=NOC(=C1)C | C5H7NO
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | dimethylacetamide | 120.0 g | CC(=O)N(C)C | C4H9NO
product | 5-acetonyl-3-methylisoxazole | 68.5 g | C(C(=O)C)C1=CC(=NO1)C | C7H9NO2
